US07622605B2
Step 1: Imidazo[1,2-b][1,2,4]triazine-6-carboxylic acid ethyl ester
A solution of 3-amino-1,2,4-triazine (5.0 g, 52 mmol) and ethyl bromopyruvate (11 mL, 88 mmol) in ethanol (50 mL) was heated to reflux for 20 minutes. The reaction was cooled to room temperature, and then partitioned between 200 mL of EtOAc and 200 mL of water. The layers were separated, and the organic layer was dried over MgSO4. The solids were removed by filtration, and then the solvent was removed by rotary evaporation. The residue was purified by chromatography (90 g SiO2, 50 to 70% EtOAc in hexanes) to give the desired product (181 mg, 1.8%). MS (ESI): 192.4 (M+H)+.

reactant | 3-amino-1,2,4-triazine | 52 mmol, 5.0 g | NC=1N=NC=CN1 | C3H4N4
reactant | ethyl bromopyruvate | 88 mmol, 11 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Imidazo[1,2-b][1,2,4]triazine-6-carboxylic acid ethyl ester | 181 mg, 1.8% | C(C)OC(=O)C=1N=C2N(N=CC=N2)C1 | C8H8N4O2
